US09284298B2
1-tert-butyl-5-(2-phenylpyrimidin-4-yl)-1H-pyrazole-3-carboxamide [(Ia) R1=phenyl, X=single bond, R2=t-butyl, R3=CONH2, R4=H] cpd 25
50 mg (0.172 mmol) of 1-tert-butyl-5-[2-(methylsulfanyl)pyrimidin-4-yl]-1H-pyrazole-3-carboxamide, 42 mg (0.343 mmol) of phenyl boronic acid, 98 mg (0.515 mmol) of copper thiophencarboxylate and 20 mg (0.017 mmol) of palladium tetrakis were suspended in 1.5 mL of dry THF under argon atmosphere. The resulting suspension was heated a 130° C. for 1 h by microwave irradiation. The reaction mixture was then filtered on a silica plug, diluted with AcOEt and washed with aqueous NH4OH. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC/MS to provide the title compound (23%).

reactant | 1-tert-butyl-5-[2-(methylsulfanyl)pyrimidin-4-yl]-1H-pyrazole-3-carboxamide | 0.172 mmol, 50 mg | C(C)(C)(C)N1N=C(C=C1C1=NC(=NC=C1)SC)C(=O)N | C13H17N5OS
reactant | phenyl boronic acid | 0.343 mmol, 42 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
catalyst | copper thiophencarboxylate | 0.515 mmol, 98 mg | S1C(=CC=C1)C(=O)[O-].[Cu+2].S1C(=CC=C1)C(=O)[O-]
catalyst | palladium tetrakis | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-tert-butyl-5-(2-phenylpyrimidin-4-yl)-1H-pyrazole-3-carboxamide | 23% | C(C)(C)(C)N1N=C(C=C1C1=NC(=NC=C1)C1=CC=CC=C1)C(=O)N | C18H19N5O
